US07078425B2
Step C: 6-Chloro-7-methoxy-4-methyl-1H-indazole
N-(3-Chloro-2-methoxy-5,6-dimethyl-phenyl)-acetamide (3.36 g, 17.4 mmol) is dissolved in HOAc (75 mL) and conc. HCl (30 mL) in a 1 L round bottom flask. The reaction is cooled to 0° C. with an ice/salt bath. Although some starting material crystallizes, a solution of NaNO2 (5.9 g, 86 mmol) in water (25 mL) is added portion-wise over 5 min. All material goes into solution and the reacion is stoppered and stirred 45 min. HPLC shows very little sm. Ice cold water (800 mL) is was added slowly and the reaction was stirred 1 h. A precipitate forms. The solid is filtered and washed with ice cold water (500 mL). The material is dried with suction and then pumped to a constant weight 3.3 g. The solid is partially dissolved in toluene (35 mL) and stirred under N2. After stirring 18 h, the reaction is heated for 4 hours and cooled. The reaction is diluted with EtOAc and washed with NaHCO3, brine, dried (MgSO4) and concentrated. The crude product is purified by column chromatography (silica, 30% EtOAc/hexanes) to provide the desired product, 6-chloro-7-methoxy-4-methyl-1H-indazole.

reactant | N-(3-Chloro-2-methoxy-5,6-dimethyl-phenyl)-acetamide | 17.4 mmol, 3.36 g | ClC=1C(=C(C(=C(C1)C)C)NC(C)=O)OC | C11H14ClNO2
reactant | HCl | 30 mL | Cl | ClH
reactant | NaNO2 | 86 mmol, 5.9 g | N(=O)[O-].[Na+]
solvent | HOAc | 75 mL | CC(=O)O | C2H4O2
solvent | water | 25 mL | O | H2O
product | 6-chloro-7-methoxy-4-methyl-1H-indazole | ClC1=CC(=C2C=NNC2=C1OC)C | C9H9ClN2O
